Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Shellfish Derived / Cymbalta / gabapentin
 
Attending: ___
 
Chief Complaint:
Shortness of breath
Empyema
 
Major Surgical or Invasive Procedure:
Removal of chest tube ___
Placement of pigtail catheter ___
Placement of L IJ ___
Placement of ___ PICC ___

 
History of Present Illness:
HISTORY OF THE PRESENTING ILLNESS: 
___ w/ PMH quadriplegia secondary to GSW to the head, DM,
GERD, and left PTX treated at ___ 1 month (tube thoracostomy,
possible pleurodesis?) with L pigtail catheter ___ place now
presenting from rehab because of worsening SOB and chest pain 
for
2 days. 

Patient was most recently hospitalized ___ to ___ for
scrotal and penile pain and with dysuria. Ultrasound during
admission notable for small varicocele enlarged with valsalva.
Hospital course was notable for back pain secondary to decubitus
ulcers, managed by home pain regimen of oxycodone, tizanadine,
and baclofen.

Patient now returning to ___ ___ the setting of worsening SOB
and chest pain. Patient reports that 3 days ago he started 
having
worsening SOB with associated fevers/chills and nonproductive
cough. Also notes progressively worsening pain at the location 
of
his chest tube which worsens with inspiration. Pain is constant
and sharp. Denies chest pain, palpitations, nausea, vomiting,
abdominal pain, dysuria, or sick contacts.

___ the ED, initial vitals were:  
Temp: 98.2 BP: 111/66 HR: 105 RR: 20 Sat: 98% 2L NC

- Exam notable for:  
Exam notable for pain ___ chest where tube inserts, worse with
inspiration. Pain is sharp. Endorses cough, and chills. Pt is
breathing evenly, vital signs stable, afebrile.

- Labs notable for:  
VBG: ___
Lactate: 1.7

133  102  17         
--------------< 348  AGap=17 
4.8  13  0.8 

      11.9 
17.8 >----< 427 
      38.2 

- Imaging was notable for: 

Chest Xray ___:
IMPRESSION:
1. Status post placement of a left the chest tube, the tip of
which terminates at the left apex, there is no evidence of
pneumothorax.
2. Left retrocardiac opacity may represent left lower lobe
pneumonia and/or atelectasis.
3. Moderate left pleural effusion.

CT CHEST ___:
IMPRESSION:
1. Near complete collapse of the left lower lobe, although
chronic since ___, despite presence of a chest tube is
worrisome for an underlying bronchial obstruction for which
further evaluation is with bronchoscopy is recommended to assess
for an obstructive.
2. Upper mediastinal lymphadenopathy measuring up to 1.3 cm.
3. Loculated left pleural effusion as described above.
4. Subcutaneous emphysema of the left anterolateral chest wall 
is
likely related to the left lateral approaching chest tube.
5. Other incidental findings as detailed above.
 
- Patient was given:  
OxyCODONE (Immediate Release) 5 mg x2
Acetaminophen 1000 mg
Piperacillin-Tazobactam 4.5 g 
Vancomycin 1000 mg
NS 1500 mL
Insulin Lispro 10 UNIT
Insulin 4 Units

Consults: Thoracics

Upon arrival to the floor, patient reports pain at chest tube
site with shortness of breath. Endorses pain shooting down his
legs and significant pain with body movement. 

 
Past Medical History:
QUADRIPLEGIA ___ GSW
DM
GERD
ABDOMINAL PSEUDOOBSTRUCTION AND DYSMOTILITY s/p ILEOSTOMY c/p
ABDOMINAL WALL ABSCESS
G-TUBE (no longer present)
___ ROD PLACEMENT
REMOTE HISTORY OF ASTHMA
POSSIBLE IVC FILTER PLACEMENT
 
Social History:
___
Family History:
Father: DM
Mother: ___ CA.
 
Physical Exam:
ADMISSION EXAM: 
VITAL SIGNS: Temp: 97.8 BP: 127/71 HR: 97 RR: 20 O2 sat: 96% Ra
GEN: AOx3, NAD, patient ___ mild discomfort lying ___ bed
HEENT: No scleral icterus, mucus membranes moist
CV: RRR, normal S1/S2, no m/r/g. 
PULM: CTA, left sided chest tube with murky drainage, Heimlich
valve ___ place. Chest tender to palpation on the left. 
ABD: Soft, nondistended, nontender, no rebound or guarding,
ileostomy pink with stool ___ bag
Ext: No ___ edema, ___ warm and well perfused
NEURO: AOx3, quadriplegic ___ strength ___ upper and lower
extremities. Patient able to move hands slightly. Sensation to
light touch intact throughout.

DISCHAGE EXAM: 
VITAL SIGNS: Tmax 98 Tc 97.7 HR 78 BP 108/68 RR 18 SpO2 99% RA
GEN: Laying ___ bed comfortably not ___ distress
HEENT: MMM, L IJ site well healed
CV: normal rate, regular rhythm, normal S1/S2, no m/r/g. 
PULM: CTAB. no w/r/r. L anterolateral chest tube site well
healed. 
ABD: Soft, nondistended, nontender, no rebound or guarding,
ileostomy pink and bag is distended with gas and brown stool 
BACK: Not examined today
GU: Foley catheter ___ place. Continues to have yeast at the tip
of his penis at the tip of his glans penis under the foreskin.
Penis is tender on examination
Ext: No ___ edema, ___ warm and well perfused. Pressure cushion
boots on feet 
NEURO: Speech fluent, CN grossly intact, spastic extremities 
with
increased tone x4, able to move hands. Sensitive to light touch
throughout all extremities
Location: right glut(POA)
Type/Etiology/Stage: Stage 3
Size: 1x 1 cm , no depth
Wound bed: red
Wound edges: irregular
Exudate: scant serous
Odor: none
Periwound tissue: dry desquamation, intact scar tissue that
lacks pigmentation
Wound Pain: none

Location: left glut(POA)
Type: Stage 3
Size: 1.5 x 2 cm, no depth
Wound bed: red
Wound edges: irregular
Exudate: scant serous
Odor: none
Periwound:  dry desquamation, intact scar tissue that lacks
pigmentation
Wound pain; none
 
Pertinent Results:
ADMISSION LABS: 
___ 08:47PM OTHER BODY FLUID  PH-6.0
___ 08:30PM PLEURAL  TOT PROT-5.5 GLUCOSE-30 LD(LDH)-817 
proBNP-65
___ 08:30PM PLEURAL  TNC-4763* RBC-5033* POLYS-62* 
LYMPHS-6* MONOS-23* EOS-1* MACROPHAG-8*
___ 09:14AM   ___ PO2-89 PCO2-29* PH-7.35 TOTAL 
CO2-17* BASE XS--7 COMMENTS-GREEN TOP
___ 03:09AM   LACTATE-1.7
___ 03:00AM   GLUCOSE-348* UREA N-17 CREAT-0.8 SODIUM-133* 
POTASSIUM-4.8 CHLORIDE-102 TOTAL CO2-13* ANION GAP-17
___ 03:00AM   estGFR-Using this
___ 03:00AM   WBC-17.8* RBC-4.65 HGB-11.9* HCT-38.2* MCV-82 
MCH-25.6* MCHC-31.2* RDW-16.7* RDWSD-49.1*
___ 03:00AM   NEUTS-78.6* LYMPHS-9.3* MONOS-9.7 EOS-1.1 
BASOS-0.5 IM ___ AbsNeut-13.97* AbsLymp-1.65 AbsMono-1.72* 
AbsEos-0.19 AbsBaso-0.08
___ 03:00AM   PLT COUNT-427*

ITNERVAL LABS: 
___ 10:05PM URINE Blood-NEG Nitrite-NEG Protein-30* 
Glucose-150* Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-LG*
___ 12:00PM PLEURAL TNC-646* ___ Polys-2* Lymphs-96* 
Monos-0 Eos-1* Macro-1*
___ 08:30PM PLEURAL TNC-___* RBC-___* Polys-62* Lymphs-6* 
Monos-23* Eos-1* Macro-8*
___ 12:00PM PLEURAL TotProt-4.8 Glucose-237 LD(LDH)-200 
Albumin-2.4 Cholest-84
___ 08:30PM PLEURAL TotProt-5.5 Glucose-30 LD(LDH)-817 
proBNP-65

IMAGING: 

Chest xray ___:
IMPRESSION:   
1. Status post placement of a left the chest tube, the tip of 
which terminates 
at the left apex, there is no evidence of pneumothorax. 
2. Left retrocardiac opacity may represent left lower lobe 
pneumonia and/or 
atelectasis. 
3. Moderate left pleural effusion. 

CT Chest w/ contrast ___:
IMPRESSION: 
1. Near-complete collapse of the left lower lobe, which was also 
seen on a CT  ___.  Underlying obstructive airway 
lesions cannot be excluded, and  nonurguent bronchoscopy 
followup is recommended. 
2. Upper mediastinal lymphadenopathy measuring up to 1.3 cm, 
also seen on the  ___ CT. 
3. Loculated small left pleural effusion as detailed above. 
4. Subcutaneous emphysema of the left anterolateral chest wall 
is likely 
related to chest tube placement. 
5. Severe paraseptal emphysema without pneumothorax. 
  
Chest xray ___:
IMPRESSION:  
-Compared to chest radiographs since ___ most recently ___.   
-Aeration of the left lower lobe has been chronically 
compromised, reflected ___ elevation of the left hemidiaphragm,, 
there is more consolidation there today and on ___ when 
there was also a new moderate left pleural effusion.  
-There has been no change ___ either since.  Apical thoracostomy 
tube ___ place.   
-Left lower lobe collapse or pneumonia and moderate left pleural 
effusion are unchanged.  No pneumothorax. 
-Heart size is indeterminate, chronically shifted into the left 
hemithorax.  
-Emphysema demonstrated ___ the right lung.  No focal right 
pulmonary 
abnormality.  
-Severe thoracic scoliosis.  Spinal curvature correction device 
___ place. 

Chest Xray ___:
IMPRESSION:  
-Compared to chest radiographs since ___ most recently ___.   
-Pigtail pleural drainage catheter projecting over the left mid 
and lower chest replaces a previous left apical thoracostomy 
tube.  Moderate left pleural effusion has not improved, there is 
no pneumothorax, and severe left lower lobe consolidation or 
atelectasis is unchanged.  Small region of medial consolidation 
apparent right lung bases stable.  Large emphysematous bullae, 
right lung apex noted. 
-Heart size is indeterminate since cardiac borders are obscured. 

  
Chest Xray ___:
IMPRESSION:  
___ comparison with the study of ___, there is probably 
little change ___ the degree of left pleural effusion with 
pigtail catheter ___ place.  No evidence of pneumothorax. 
Otherwise, little change. 

Chest Port ___:
IMPRESSION:  
Interval placement of a left internal jugular central venous 
catheter whose tip projects over the right atrium, approximately 
3 cm beyond the cavoatrial junction.  No pneumothorax. 

CT chest w/o contrast ___:
IMPRESSION:  
-Left-sided pleural drain ___ situ. Small residual pneumothorax 
present ___ the left lung apex. The previously noted left-sided 
pleural effusion is largely resolved. Small residual loculated 
fluid collection ___ the left oblique fissure. 
-Persistent atelectasis of the left lower lobe appears slightly 
increased 
compared to most recent prior imaging. The bronchial tree 
appears patent to the segmental level, but a left lower lobe 
endobronchial lesion cannot be excluded. If clinically indicated 
bronchoscopy may be performed. 

Tunneled line ___:
IMPRESSION:  
Successful placement of a right 45 cm brachial approach single 
lumen Power PICC with tip ___ the cavoatrial junction. The line 
is ready to use. 

MICROBIOLOGY:
___ 3:00 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH.

___ 8:30 pm PLEURAL FLUID      PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      Reported to and read back by ___ @ 0714 ON 
___ - ___. 
      3+  ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND CLUSTERS. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    HEAVY GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
      PSEUDOMONAS AERUGINOSA.    SPARSE GROWTH. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    RARE GROWTH. 
      MIXED BACTERIAL FLORA. 
         Due to mixed bacterial types [>=3] an abbreviated 
workup is
         performed; all organisms will be identified and 
reported but only
         select isolates will have sensitivities performed. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |          PSEUDOMONAS AERUGINOSA
                             |          |   
CEFEPIME--------------              <=1 S
CEFTAZIDIME-----------                4 S
CIPROFLOXACIN---------           <=0.25 S
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S      <=1 S
LEVOFLOXACIN----------   =>8 R
MEROPENEM-------------           <=0.25 S
OXACILLIN-------------   =>4 R
PIPERACILLIN/TAZO-----                8 S
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------  =>16 R
TOBRAMYCIN------------              <=1 S
TRIMETHOPRIM/SULFA----  =>16 R
VANCOMYCIN------------     1 S

   ANAEROBIC CULTURE (Final ___:    NO ANAEROBES ISOLATED. 


___ 10:38 am BLOOD CULTURE      #1 #1. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 12:00 pm PLEURAL FLUID      PLEURAL FLUID. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      2+   ___ per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count.. 

   FLUID CULTURE (Final ___:    NO GROWTH. 

   ANAEROBIC CULTURE (Final ___:    NO GROWTH. 

___ 10:05 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

___ 9:30 pm BLOOD CULTURE      Source: Line-PICC. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 9:19 pm URINE      Source: ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      YEAST.    < 10,000 CFU/mL. 

___ 12:30 pm SKIN SCRAPINGS

   FUNGAL CULTURE (HAIR/SKIN/NAILS) (Pending): 

DISCHARGE LABS:
___ 05:47AM BLOOD WBC-12.4* RBC-4.13* Hgb-10.5* Hct-33.6* 
MCV-81* MCH-25.4* MCHC-31.3* RDW-16.9* RDWSD-49.5* Plt ___
___ 05:47AM BLOOD Plt ___
___ 05:47AM BLOOD Glucose-86 UreaN-19 Creat-0.5 Na-135 
K-5.0 Cl-102 HCO3-21* AnGap-12
___ 05:47AM BLOOD Calcium-10.2 Phos-3.6 Mg-1.8
 
Brief Hospital Course:
SUMMARY: Mr. ___ is a ___ w/ PMH quadriplegia secondary to GSW 
to the head, DM, GERD, and left PTX treated at ___ 1 month (s/p 
tube thoracostomy and pleurodesis) presenting from rehab because 
of worsening SOB and chest pain for 2 days, found to have 
L-sided empyema growing MRSA and pseudomonas. 

ACTIVE ISSUES:
===============
# L sided empyema 
# Superficial soft tissue infection
Patient status-post placement of L pigtail catheter at ___ 
___ for PTX 1 month ago, likely secondary to 
emphysema/blebs. He presented with significant L sided chest 
pain, shortness of breath, and leukocytosis. CT and chest xray 
on admission notable for LLL collapse and loculated pleural 
effusions. This also showed lobar collapse that had been present 
for years. Pleural fluid sample from Heimlich valve/chest tube 
consistent with exudative effusion and grew pseudomonas and 
MRSA. His chest tube was removed and replaced by a pigtail 
catheter by Interventional Pulmonology, which led to improvement 
___ pleural effusion seen on CXR. ___ hospital course was 
complicated by difficult access, requiring a left IJ, which was 
replaced with an ___ ___ his right UE given the need for 
prolonged abx. Infectious Diseases was consulted who recommended 
treatment with vancomycin and cefepime through ___ with 
follow-up arranged ___ ___ clinic. CT chest on ___ showed 
significant improvement ___ his empyema and his chest tube was 
switched to water seal and removed on ___. 
[] Continue vancomcyin and cefepime for planned six-week course 
(stop date ___, afterwards please remove RUE PICC
[] Recommend outpatient bronchoscopy for work-up of lobar 
collapse
[] Please obtain weekly labs: CBC with differential, BUN, Cr, 
Vancomycin trough, LFTs, CRP and fax them to ATTN: ___ 
CLINIC ___
[] All questions regarding outpatient parenteral antibiotics 
after discharge should be directed to the ___ 
R.N.s at ___ or to the on-call ID fellow when the 
clinic is closed. 

#Leukocytosis and thrombocytosis - Ongoing throughout admission, 
treatment for infection as above. Patient was additionally given 
fluconazole 150mg x2 for balanitis as below. MRI spine did not 
show any signs of osteomyelitis or abscess. Given ongoing 
leukocytosis, APAP was held to ensure that no fevers were being 
masked. No concern for new, evolving infection at time of 
discharge despite persistent low level leukocytosis and 
thrombocytopenia.

# COPD 
# History of asthma
Patient with reported history of asthma with no PFTs on file. He 
was on theophylline as an outpatient but was unsure of who was 
managing it. He was having a lot of insomnia, which improved 
after stopping theophylline after discussion with interventional 
pulmonary. He has blebs/emphysematous changes on CT chest 
concerning for undiagnosed COPD with previous smoking history. 
Dose of Advair was increased ___ the setting of stopping 
theophylline. 
[] Would recommended outpatient PFTs 

# Junctional rhythm 
# Supraventricular tachycardia
Patient was noted to have new junctional rhythm on ___. He was 
asymptomatic and it resolved without intervention. The patient 
denied chest pain, palpitations, SOB or nausea. Repeat EKG on 
___ was unremarkable. The episode occurred prior to placment of 
his L IJ. Per cardiology, likely a vasovagal episode ___ the 
setting of chest tubes and infection with low concern for sick 
sinus syndrome. TTE on ___ showed ejection fraction of 59% and 
moderately dilated right ventricle with low-normal free wall 
motion. TSH was 3.5. His lytes were monitored with goal K > 4 
and Mg >2. He also developed one brief episode of SVT that 
self-resolved. Cardiology consulted who recommended holding beta 
blocker. 
[] Holding bisoprolol pending Cardiology follow up

# Quadriplegia
# Decubitus ulcer, present on admission
Patient with hx of lower back pain secondary to immobilization 
and decubitus ulcers noted on prior admission ___ ___. 
Patient had continued back pain which was managed with Oxycodone 
10 mg PO Q4H:PRN, Baclofen 30 mg PO TID, Acetaminophen 1000 mg 
PO Q8H. Tizanidine 6 mg PO prn TID was held given that diazepam 
works better (discharged on 2.5-5mg BID). Wound care consult was 
placed, please see page-1 for recommendations. 
[] Continue wound care of sacral ulcer as per page-1

# Contractures
Patient with severe contractures of his upper extremities 
bilaterally. Per patient, occurs ___ the setting of pain. Likely 
exacerbation of his chronic neurologic disease. Contractures 
were managed with pain regimen per above and improved by time of 
discharge. 

# Polypharmacy
Patient with multiple recent medication lists ___ the setting of 
hospitalizations and rehab stays. Attempted to remove 
unnecessary medications.
[] Consider ongoing need for cholestyramine 
[] Stopped medications (see discharge medication list) that were 
not needed or unsafe

# Vitamin deficiencies
Patient evaluated by nutrition and started on MVI with minerals. 
He was also given vitamin C, vitamin A, and zinc for a total of 
14 days (last day ___ 

# Elevated alkaline phosphatase
Alk phos elevated to 180s-190s with GGT 86. RUQUS without 
biliary dilatation or concerning findings. No bony or liver 
symptoms and other LFTs normal. Anti-mitochondrial antibodies 
negative.
[] Monitor alk phos as outpatient. Consider hepatology referral 
if rising

# Seizure history
Per ___ records: "Per neurology, given EEG with bilateral 
frontal encephalomalacia, could be source of epileptic activity. 
No definitive seizure captured as of yet on EEG but given story 
(time skips and likely post ictal state) and prior similar 
events per family, patient would benefit from starting 
antiepileptics.  He was thus discharged on keppra 500 mg BID and 
was advised to follow up with his outpatient neurologist at 
___, Dr. ___ Patient continued on Keppra BID. 
[] Outpatient EEG/Neurology f/u 

# DMII
Given poor glucose control, increased regimen to basal/bolus 
regimen at higher doses. Regimen at time of discharge: Lantus 
25U qHS, prandial Humalog 10U TID, HISS.
[] Continue to titrate insulin regimen for optimized diabetes 
control, may need further downtitration (had been on Lantus 8U 
qd on admission without any standing prandial Humalog)

#Cutaneous candidiasis: Complaining of penile pain with 
urination, noted on ___ to have candidiasis on his penis and 
perineum. He was started on 0.2% miconazole cream bid and 
additionally given two doses of fluconazole 150mg. Penile 
discharge was cultured, results pending at time of discharge.
[] Complete 7 day course of miconazole cream (last day ___
[] f/u culture for fungal sensitivities, fluconazole resistance 
is possible

# Polyuria: was noted to have polyuria for a few days prior to 
discharge. Etiology unclear as hyperglycemia was resolved by 
then and no effect on his sodium. Urine electrolytes Na 86, 
Urine Osm 491, serum sodium 135, measured serum osm of 284 also 
with a calculated serum osm of 284 (___). Given that he was 
receiving fluids previously for c/f hypovolemia, he may still be 
redistributing and diuresing
extra volume. He may also have suffered ATN earlier this 
admission and may now be recovering. Clinically, he is not 
hypovolemic and his serum sodium stable. Unfortunately he was 
non-compliant with fluid restriction attempt. 

CHRONIC ISSUES:
===============
# Normocytic anemia
At baseline, ~ 11. Likely AOCD versus iron deficiency. No 
evidence of active bleeding. Iron studies notable for iron 29 
and normal ferritin. 
[] Consider outpatient iron repletion

# Ileostomy
Patient with ileostomy secondary to abdominal pseudoobstruction 
and dysmotility. Patient was continued on home Loperamide and 
home Diphenoxylate-Atropine. Loperamide dose decreased to 
typical dose. 

# Insomnia
Improved after stopping theophylline. Given Ramelteon prn sleep. 


# GERD
Continued formulary PPI. 

# HLD
Continued home Cholestyramine 8 gm PO TID

=====================
TRANSITIONAL ISSUES:
=====================
Follow-up:
[] All questions regarding outpatient parenteral antibiotics 
after discharge should be directed to the ___ 
R.N.s at ___ or to the on-call ID fellow when the 
clinic is closed. 
[] Referred to Neurology, Cardiology, Interventional Pulmonary 
on discharge
[] Continue wound care of sacral ulcer
[] Patient will need RUE PICC removed after completion of IV abx 
___
[] Please monitor urine output and serum electrolytes and 
determine if any further need for workup/mgmt. of polyuria if it 
has not resolved
[] Please consider discontinuing foley catheter as soon as able 
given competing risks of infection of wound and risk for UTI

Studies/Labs:
[] Please obtain weekly labs: CBC with differential, BUN, Cr, 
Vancomycin trough, LFTs, CRP and fax them to ATTN: ___ 
CLINIC ___ 
[] Recommend outpatient bronchoscopy for ___ collapse 
[] Monitor alk phos as outpatient. Consider hepatology referral 
if rising

Medications:
[] Consider outpatient iron repletion
[] Continue vancomcyin and cefepime for planned six-week course 
(stop date ___
[] Continue to titrate insulin regimen for optimized diabetes 
control, will likely need further downtitration
[] Medication changes per medication list attached
[] Vitamin supplementations should be completed ___, 
continue to assess for deficiencies

Procedures:
[] Please consider IVC filter removal

# CODE: Full (confirmed)  
# CONTACT: Daughters: ___ (___), ___ 
(___), and ___ (___)

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Baclofen 30 mg PO TID 
2. bisoprolol fumarate 2.5 mg oral DAILY 
3. Cholestyramine 4 gm PO TID 
4. DiphenhydrAMINE 12.5 mg PO TID:PRN insomnia/anxiety 
5. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
6. Hydrocerin 1 Appl TP DAILY:PRN pruritis 
7. LOPERamide 6 mg PO TID:PRN high ostomy output  
8. Melatin (melatonin) 8 mg oral QHS:PRN 
9. OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - Severe 
10. polyvinyl alcohol 1.4 % ophthalmic (eye) QID:PRN 
11. Theophylline ER 400 mg PO DAILY 
12. Tizanidine 6 mg PO TID:PRN spasm 
13. Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN skin 
irritation 
14. Dexilant (dexlansoprazole) 60 mg oral DAILY 
15. Acetaminophen 1000 mg PO Q8H 
16. Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Third 
Line 
17. Bisacodyl ___AILY:PRN Constipation - Second Line 
18. Fleet Enema (Saline) ___AILY:PRN constipation 
19. Glargine 8 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
20. Simethicone 80 mg PO TID:PRN dyspepsia 
21. Artificial Tears ___ DROP BOTH EYES PRN eye dryness 
22. Pregabalin 25 mg PO BID 
23. LevETIRAcetam 500 mg PO BID 
24. Diphenoxylate-Atropine ___ TAB PO Frequency is Unknown 
25. Diazepam 5 mg PO Q12H:PRN muscle cramps/spasms 

 
Discharge Medications:
1.  Ascorbic Acid ___ mg PO DAILY Duration: 14 Days 
Take for 14 days (___)  
2.  CefePIME 2 g IV Q8H 
Stop date: ___  
3.  Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID  
4.  Heparin Flush (10 units/ml) 2 mL IV DAILY and PRN, line 
flush  
5.  Miconazole 2% Cream 1 Appl TP BID:PRN Candidiasis  
6.  Miconazole Powder 2% 1 Appl TP BID Cutaneous candidiasis  
7.  Multivitamins W/minerals 1 TAB PO DAILY  
8.  Sodium Chloride 0.9%  Flush 10 mL IV DAILY and PRN, line 
flush  
9.  Vancomycin 1250 mg IV Q 24H  
10.  Venlafaxine 75 mg PO DAILY Neuropathic pain  
11.  Vitamin A ___ UNIT PO DAILY Duration: 14 Days 
Take for 14 days (___)  
12.  Zinc Sulfate 220 mg PO DAILY Duration: 14 Days 
Take for 14 days (___)  
13.  Diphenoxylate-Atropine 1 TAB PO Q6H:PRN high ostomy output 
RX *diphenoxylate-atropine 2.5 mg-0.025 mg 1 tablet(s) by mouth 
every six (6) hours Disp #*20 Tablet Refills:*0 
14.  Glargine 25 Units Bedtime
Humalog 10 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
15.  LOPERamide 4 mg PO TID:PRN high ostomy output   
16.  Acetaminophen 1000 mg PO Q8H  
17.  Artificial Tears ___ DROP BOTH EYES PRN eye dryness  
18.  Baclofen 30 mg PO TID  
19.  Bisacodyl ___AILY:PRN Constipation - Second Line  
20.  Cholestyramine 4 gm PO TID  
21.  Dexilant (dexlansoprazole) 60 mg oral DAILY  
22.  Diazepam 5 mg PO Q12H:PRN muscle cramps/spasms 
Please hold for sedation, RR<10 
RX *diazepam [Valium] 5 mg 5 mg by mouth twice a day Disp #*5 
Tablet Refills:*0 
23.  Hydrocerin 1 Appl TP DAILY:PRN pruritis  
24.  LevETIRAcetam 500 mg PO BID  
25.  Melatin (melatonin) 8 mg oral QHS:PRN  
26.  Milk of Magnesia 30 mL PO DAILY:PRN Constipation - Third 
Line  
27.  OxyCODONE (Immediate Release) 10 mg PO Q4H:PRN Pain - 
Severe 
RX *oxycodone 10 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*20 Tablet Refills:*0 
28.  polyvinyl alcohol 1.4 % ophthalmic (eye) QID:PRN  
29.  Simethicone 80 mg PO TID:PRN dyspepsia  
30.  Triamcinolone Acetonide 0.1% Cream 1 Appl TP BID:PRN skin 
irritation  
31. HELD- bisoprolol fumarate 2.5 mg oral DAILY  This medication 
was held. Do not restart bisoprolol fumarate until you see a 
Cardiologist
32.Outpatient Lab Work
Labs: CBC with differential, BUN, Cr, Vancomycin trough, LFTs, 
CRP 
Date: Weekly (Please check first lab ___
ICD-9 code: ___
ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

 
Discharge Disposition:
Extended Care
 
Facility:
___ 
 
Discharge Diagnosis:
PRIMARY:
Sepsis secondary to empyema
Left lower lobar collapse
Acute hypoxic respiratory failure 
Emphysema
Superficial soft tissue infection

SECONDARY:
Junctional rhythm
Supraventricular tachycardia
Decubitus ulcer, present on admission
Quadriplegia
Contractures
Seizure disorder
Chronic alkaline phosphatase elevation
Insulin dependent type II diabetes mellitus 
Chronic normocytic anemia
Ileostomy
Cutaneous candidiasis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

Why were you admitted?
========================
- You were hospitalized due to fever, chills, chest pain and 
shortness of breath. 

What happened during your hospitalization?
===========================================
- You had imaging of your chest which showed collapse of your 
lower left lung and an accumulation of fluid
- You were seen by thoracic surgery and interventional 
pulmonology who drained the fluid ___ your lungs
- You were seen by the infectious disease specialists and 
started on antibiotics to treat the infection ___ your lungs
- You were seen by the cardiology specialists due to an abnormal 
heart rhythm who felt we should hold your home bisoprolol 
- You were given pain medication and were evaluated by wound 
care specialists to manage the pain from the ulcer on your lower 
back

What should you do when you leave the hospital?
===============================================
- Continue to take all of your medications as prescribed
- Follow-up with your specialty health care appointments as 
listed below

Sincerely, 

Your ___ Care Team
 
Followup Instructions:
___